US08648111B2
(2-1) Preparation of 2-(2-isothiocyanatoethyl)thiophene
Thiopene ethylamine (4.60 mL, 39.31 mmol) and triethyl amine (5.00 mL, 39.31 mmol) were dissolved in 1,2-dichloroethane (25 mL), and the resulting mixture was cooled to 0° C. A solution of carbon disulfide (2.36 mL, 39.31 mmol) in 1,2-dichloroethane (50 mL) was added dropwise thereto over 15 min. The reaction mixture was allowed to warm to room temperature and re-cooled to 0° C., to which ethyl chloroformate (4.27 mL, 31.39 mmol) was added dropwise. The reaction mixture was stirred at room temperature for about 1-2 h, and water (150 mL) and aqueous 2N sodium hydroxide (75 mL) were sequentially added thereto. The resulting mixture was extracted with dichloromethane. The extract was washed with water and brine, dried over sodium sulfate, and concentrated, to obtain the yellow title compound in a liquid form (5.37 g, 80.75%).

reactant | Thiopene ethylamine | 39.31 mmol, 4.60 mL | S1C(=CC=C1)CCN | C6H9NS
reactant | triethyl amine | 39.31 mmol, 5.00 mL | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 39.31 mmol, 2.36 mL | C(=S)=S | CS2
reactant | ethyl chloroformate | 31.39 mmol, 4.27 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | 2N, 75 mL | [OH-].[Na+]
solvent | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | water | 150 mL | O | H2O
product | 2-(2-isothiocyanatoethyl)thiophene | N(=C=S)CCC=1SC=CC1 | C7H7NS2
